US07495006B2
1-Benzyl-3-(3-benzyloxymethyl-2-fluoro-cyclobutyl)-urea
In a 25 mL flask with benzyl-(3-benzyloxymethyl-2-fluoro-cyclobutyl)-amine (25.8 mg, 0.12 mmol) inside, dry CH2Cl2 2 mL was added under argon at room temperature to give a colorless solution, followed by the addition of Et3N (0.02 mL, 0.14 mmol). After stirring for 5 min, 4-nitrophenyl-N-benzylcarbamate (32.1 mg, 0.12 mmol) was added to give a yellow solution. This was left stirring at room temperature for 10 hr and the reaction was quenched by adding 10 mL CH2Cl2. The organic phase was washed with 1 M NaOH 10 mL, H2O 10 mL and brine 10 mL and was dried over MgSO4. Solvent evaporation gave the crude product 42 mg that is pure enough and crystallization gave the pure product 38 mg (90%) as a white solid. 1H NMR (CDCl3, 400 MHz): δ 1.96-2.01 (m, 2H), 2.65-2.80 (m, 1H), 3.48-3.58 (m, 2H), 4.31-4.36 (m, 3H), 4.52 (s, 2H), 4.82-4.99 (td, 1H, J=54.8, 5.2), 7.19-7.39 (m, 10H). 13C NMR (CDCl3, 100 MHz): δ 27.11-27.19 (d, J=7.6), 41.75-41.96 (d, J=21), 47.92, 48.44-48.51 (d, J=7.0), 71.12-71.16 (d, J=4.0), 74.26, 90.34-92.48 (d, J=214), 128.14, 128.30, 128.84, 128.96, 129.56, 129.62, 139.81, 141.35, 160.85. MS (FAB): expected for C20H23FN2O2 (M+H)+ 343.41. Found 343.18178. IR (neat) νmax 2923, 2851, 1558, 1458, 1378, 1265, 895, 740, 704. The absolute stereochemistry was established by X-ray crystallographic analyses.

reactant | benzyl-(3-benzyloxymethyl-2-fluoro-cyclobutyl)-amine | 0.12 mmol, 25.8 mg | C(C1=CC=CC=C1)NC1C(C(C1)COCC1=CC=CC=C1)F | C19H22FNO
reactant | Et3N | 0.14 mmol, 0.02 mL | CCN(CC)CC | C6H15N
reactant | 4-nitrophenyl-N-benzylcarbamate | 0.12 mmol, 32.1 mg | [N+](=O)([O-])C1=CC=C(C=C1)N(C([O-])=O)CC1=CC=CC=C1
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-3-(3-benzyloxymethyl-2-fluoro-cyclobutyl)-urea | 38 mg, 90% | C(C1=CC=CC=C1)NC(=O)NC1C(C(C1)COCC1=CC=CC=C1)F | C20H23FN2O2
